US08067408B2
237(b) A mixture of 1,1-dimethylethyl (2S)-4-{[3′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}-carbonyl)amino]-methyl}-5′-(methyloxy)-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate (130 mg, 0.19 mmol) in 25% TFA in DCM (3 mL) was stirred at RT for 2 h. It was purified by preparative hplc (NH2OH condition), eluting with 10 to 90% CH3CN in water. The fractions were dried under GeneVac to give a solid. It was purified further using a Gilson HPLC (with 0.1% TFA condition) and eluting with 10 to 90% CH3CN in water. Fractions containing compound were combined and then converted to its free base with saturated NaHCO3. The organic layer was dried over sodium sulfate, filtered and then concentrated to give N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(5-(methyloxy)-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-1,3-benzenedicarboxamide as a white solid (58 mg, 50%). LC-MS m/z 759 (M+H)+.

reactant | 1,1-dimethylethyl (2S)-4-{[3′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]phenyl}-carbonyl)amino]-methyl}-5′-(methyloxy)-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate | 0.19 mmol, 130 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C=CC2)C(=O)NCC=2C=C(C=C(C2)OC)C2=CC(=CC=C2)CN2C[C@@H](N(CC2)C(=O)OC(C)(C)C)C)CC | C49H62N8O6
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(5-(methyloxy)-3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-1,3-benzenedicarboxamide | 58 mg, 50% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C=C(C2)OC)C2=CC(=CC=C2)CN2C[C@@H](NCC2)C)CC | C44H54N8O4
